US07820704B2
{(2,5-Dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid tert-butyl ester was prepared following general procedure F using N-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-2,5-dimethoxy-benzenesulfonamide (126 mg, 0.3 mmol), tert-butyl bromoacetate (90.4 μL, 98%, 0.6 mmol), potassium carbonate (124 mg, 0.9 mmol) and DMF (1 mL). Purification (silica gel, ethyl acetate/hexanes 1:4) gave the product compound (111 mg, 0.208 mmol). LCMS m/z: 533 (M+1)+.

reactant | N-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-2,5-dimethoxy-benzenesulfonamide | 0.3 mmol, 126 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NS(=O)(=O)C1=C(C=CC(=C1)OC)OC | C20H22N2O4S2
reactant | tert-butyl bromoacetate | 0.6 mmol, 90.4 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 0.9 mmol, 124 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | {(2,5-Dimethoxy-benzenesulfonyl)-[4-(4-isopropyl-phenyl)-thiazol-2-yl]-amino}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN(C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)S(=O)(=O)C1=C(C=CC(=C1)OC)OC)=O | C26H32N2O6S2
